US07592477B2
{{[4-(dodecyloxy)-1-naphthyl]methyl}[4-(trifluoromethyl)benzyl]amino}-(oxo)acetic acid N-methyl-D-glucamine (i.e. 1-deoxy-1-(methylamino)glucitol) salt
The same procedure as employed in the preparation of Example 2 but using N-methyl-D-glucamine and {{[4-(dodecyloxy)-1-naphthyl]methyl}[4-(trifluoromethyl)benzyl]amino}(oxo)acetic acid gave the title compound as a pink solid (68%). M−(LC/MS(ESI)): 570.3. HPLC (Condition A), Rt: 6.45 min (HPLC purity: 99.7%). Analysis calculated for C33H40F3NO4.C7H17NO5▪1.5H2O: C, 60.52; H, 7.62; N, 3.53%. Found: C, 60.71; H, 7.50; N, 3.56%.

reactant | N-methyl-D-glucamine | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
reactant | {{[4-(dodecyloxy)-1-naphthyl]methyl}[4-(trifluoromethyl)benzyl]amino}(oxo)acetic acid | C(CCCCCCCCCCC)OC1=CC=C(C2=CC=CC=C12)CN(CC1=CC=C(C=C1)C(F)(F)F)C(C(=O)O)=O | C33H40F3NO4
product | {{[4-(dodecyloxy)-1-naphthyl]methyl}[4-(trifluoromethyl)benzyl]amino}-(oxo)acetic acid N-methyl-D-glucamine | 68% | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO.C(CCCCCCCCCCC)OC1=CC=C(C2=CC=CC=C12)CN(CC1=CC=C(C=C1)C(F)(F)F)C(C(=O)O)=O | InChI=1S/C33H40F3NO4.C7H17NO5/c1-2-3-4-5-6-7-8-9-10-13-22-41-30-21-18-26(28-14-11-12-15-29(28)30)24-37(31(38)32(39)40)23-25-16-19-27(20-17-25)33(34,35)36;1-8-2-4(10)6(12)7(13)5(11)3-9/h11-12,14-21H,2-10,13,22-24H2,1H3,(H,39,40);4-13H,2-3H2,1H3/t;4-,5+,6+,7+/m.0/s1
